US04209516
A mixture of 8.0 g (0.015 mole) of 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(iodomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester [see Example 13 b)] and 3.3 ml of 1-methyl-piperazine in 160 ml of methanol is stirred for 16 hours at 40°. The reaction solution is then concentrated in vacuo; water is added to the residue and extraction is performed twice with methylene chloride. The organic phase is washed twice with icewater, and extraction is then performed twice with 2N hydrochloric acid solution. To the aqueous acidified extracts there are added ice and sufficient 5N sodium hydroxide solution to bring the pH-value to 10. The base that has precipitated is taken up in ether. The organic phase is washed twice with saturated sodium chloride solution; it is afterwards dried over sodium sulphate and concentrated in vacuo to dryness. There is obtained 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(4-methyl-1-piperazinyl)-methyl]-1H-1,2,4-triazole-3-carboxylic acid methyl ester as solidified foam.

reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(iodomethyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | 0.015 mole, 8.0 g | COC(=O)C1=NN(C(=N1)CI)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C18H12Cl2IN3O3
reactant | 1-methyl-piperazine | 3.3 ml | CN1CCNCC1 | C5H12N2
solvent | methanol | 160 ml | CO | CH4O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(4-methyl-1-piperazinyl)-methyl]-1H-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)CN1CCN(CC1)C)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C23H23Cl2N5O3
